US04405408
Except that 60.5 g of castor oil fatty acid, 20.2 g of sebacic acid and 48.7 g of pentaethylenehexamine were used instead of hydroxystearic acid and triethylenetetramine, the same procedures and conditions as those used in the foregoing Example 1 were repeated to subject the input materials to a reaction. At the end of the reaction, 54 g of glacial acetic acid was added thereto, followed by dilution with warm water. Then, after adding 7.4 g of epichlorohydrin thereto, the resultant system was subjected to a reaction at 80°-85° C. for 2 hours to produce a dispersion having a solid content of 20% by weight. Hereinafter, this dispersion shall be referred to as the dispersing agent Hs according to the present invention. Thereafter, by using 10 parts by weight, as solid content, of the dispersing agent Hs, a dispersion of hexadecyl ketene dimer was prepared in the same manner as in the preceding Example 7. Hereinafter, this dispersion shall be referred to as the cellulose treating agent H according to the present invention.

reactant | sebacic acid | 20.2 g | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | pentaethylenehexamine | 48.7 g | NCCNCCNCCNCCNCCN | C10H28N6
reactant | hydroxystearic acid | OC(C(=O)O)CCCCCCCCCCCCCCCC | C18H36O3
reactant | triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | epichlorohydrin | 7.4 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | O | H2O
solvent | acetic acid | 54 g | C(C)(=O)O | C2H4O2
product | hexadecyl ketene | C(CCCCCCCCCCCCCCC)C=C=O | C18H34O
